US05223498
A mixture of 1-methyl-3-[2-(1-pyrrolidinyl)phenyl]thiourea (18.5 g) and methyl iodide (12.3 g) and acetone (100 ml) was heated under reflux for 2.5 hours to give 2-methyl-1-[2-(1-pyrrolidinyl)phenyl]3-methyl-2-thiopseudourea hydroiodide (m.p. 161°-162° C.).

reactant | 1-methyl-3-[2-(1-pyrrolidinyl)phenyl]thiourea | 18.5 g | CNC(=S)NC1=C(C=CC=C1)N1CCCC1 | C12H17N3S
reactant | methyl iodide | 12.3 g | CI | CH3I
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2-methyl-1-[2-(1-pyrrolidinyl)phenyl]3-methyl-2-thiopseudourea hydroiodide | I.CSC(NC1=C(C=CC=C1)N1CCCC1)=NC | InChI=1S/C13H19N3S.HI/c1-14-13(17-2)15-11-7-3-4-8-12(11)16-9-5-6-10-16;/h3-4,7-8H,5-6,9-10H2,1-2H3,(H,14,15);1H
